US08802697B2
Synthesis of 6-bromo-8-fluoroquinazolin-2-ol
A stirred mixture of 2-amino-5-bromo-3-fluorobenzaldehyde (2.17 g, 10 mmol) and urea (9 g, 150 mmol) was heated at 180° C. for 2 h. LCMS showed the reaction was completed. The reaction mixture was cooled to RT, and the resulting precipitate was filtered and washed with water (500 mL*3). The moisture trapped was completely removed by the co-evaporation with toluene three times. The title compound (2 g, 83%) was obtained as a yellow solid. MS (ES+) C8H4BrFN2O requires: 242, 244. found: 243, 245 [M+H]+.

reactant | 2-amino-5-bromo-3-fluorobenzaldehyde | 10 mmol, 2.17 g | NC1=C(C=O)C=C(C=C1F)Br | C7H5BrFNO
reactant | urea | 150 mmol, 9 g | NC(=O)N | CH4N2O
product | 6-bromo-8-fluoroquinazolin-2-ol | 2 g, 83% | BrC=1C=C2C=NC(=NC2=C(C1)F)O | C8H4BrFN2O
